*sledi parametri
    
    *masa je vedno vzlisce 0
    *k-kilo, m-mili, meg-mega, u-mikro
    r_r1    2   3   r=178k
    r_r2    2   0   r=94k
    r_re    6   0   r=1.1k
    r_rc    3   4   r=1.5k
    r_rl    7   0  r=10k
    
    c_c1    1   2   c=100u
    c_c2    10   7   c=100u
    c_c3    6   0   c=100u
    
    *v_imevira  n+   n- dc=xx   acmag=xx    sin=(off, amp, freq)
    v_vin    1   0   dc=0    sin=(0, 0.05, 5k)  acmag=1 
    v_vplus  3   0   dc=10
    v_vtok1   4   8   dc=0
    v_vtok2   4   9   dc=0
    v_vout    4   10  dc=0
    
    .include models.inc
    *m_imeTranz d   g   s   b   incModela parametri
    *. model imeModela tipEl parametri (kp, vto, lambda...)
   
    q_q1   9   2   5   T2n2222
    q_q2   8   5   6   T2n2222 
    
    .control
        destroy all
        echo ######## Vaja5 ######
         echo ---------OP1---------
        *delovna tocka ukaz op
        op
        *spremenljivka (vektor)
        let icq2=i(v_vtok1)
        let icq1=i(v_vtok2)
        let vceq1=v(9,5)
        let vceq2=v(8,6)
        print icq1, icq2, vceq1, vceq2
        echo -------TRAN1-------
        tran 0.05u 5m
        let vin_pp = max(v(1))-min(v(1))
        let vout_pp = max(v(7))-min(v(7))
        let av =vout_pp/vin_pp
        let iin_pp=max(i(v_vin))-min(i(v_vin))
        let iout_pp=max(i(v_vout))-min(i(v_vout))
        let ai =iout_pp/iin_pp
        print av, ai
        echo ---------AC1---------
         ac  dec 10  1   100meg
         let av=v(7)/v(1)
        let av_db=db(av)
        let av_ph=ph(av)
        plot av xlabel 'f' ylabel 'Av'
        plot av_db xlabel 'f' ylabel 'Av[db]'
        plot av_ph xlabel 'f' ylabel 'Av[ph]'
        let z1=v(1)/-i(v_vin)
        let zin=abs(z1)
        plot zin
    .endc
    .end
